US04003927
To a solution of (3,4-dichloro-5-oxo-6-cyclopentyl-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy)acetonitrile (5.7 g., 0.0165 mole) in DMF (25 ml.) is added sodium azide (1.26 g., 0.0194 mole) and ammonium chloride (1.05 g., 0.0194 mole). The mixture is heated at 85°-90° C. for one hour, cooled and poured into ice water. The mixture is acidified with 6 N HCl. The gummy solid that forms is triturated with butyl chloride and then crystallized from butyl chloride-methanol to obtain 5-(3,4-dichloro-5-oxo-6-cyclopentyl-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxymethyl)tetrazole.

reactant | (3,4-dichloro-5-oxo-6-cyclopentyl-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy)acetonitrile | 0.0165 mole, 5.7 g | ClC1=C(C2=C(CCCC(C2=O)C2CCCC2)C=C1OCC#N)Cl | C18H19Cl2NO2
reactant | sodium azide | 0.0194 mole, 1.26 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.0194 mole, 1.05 g | [Cl-].[NH4+]
reactant | HCl | 6 N | Cl | ClH
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 5-(3,4-dichloro-5-oxo-6-cyclopentyl-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxymethyl)tetrazole | ClC1=C(C2=C(CCCC(C2=O)C2CCCC2)C=C1OCC1=NN=NN1)Cl | C18H20Cl2N4O2
